datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:14])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[H:15])([H:11])([H:12])[H:13],71.128
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:6])([H:4])[H:5].[S:3]([H:9])[H:10],8.368
[C:0](#[C:1][C:2]=[S:3])[H:4].[c:5]1([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16],107.947
[N:0]([O:1][H:4])([H:2])[H:3].[N:5][H:6]>>[H:4][N:5][H:6].[N:0]([O:1])([H:2])[H:3],10.142016
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:27][O:28],213.09112
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[H:13])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:10]([C:9]#[C:8][H:12])([C:11]([H:14])([H:15])[H:16])[H:13])[H:4],49.7478
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])([H:9])([H:10])[H:11].[O:7][O:8][H:12],125.9384
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([C:18]([H:26])([H:27])[H:28])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:22])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18]([H:26])([H:27])[H:28])([H:19])([H:20])[H:21],85.3536
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[O:8][O:9][H:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:8][O:9][H:10],85.5
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:27],9.3094
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17](=[O:18])[H:23])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][C:16]([C:15]([H:19])([H:20])[H:21])([C:17](=[O:18])[H:23])[H:22],40.41744
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][H:17],26.9868
[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4][c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:12])[H:13])[H:11])([H:9])[H:10],253.395592
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:30])([H:31])[H:32])([C:23]([H:33])([H:34])[H:35])[c:24]1[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]1[H:40])[H:11])([H:9])[H:10],30.8779
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[H:9][O:20][H:21],-2.493664
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([S:15][H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[S:15][H:19])[H:7])([H:5])[H:6].[C:14]([H:16])([H:17])[H:18],92.048
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]([C:6]([H:15])([H:16])[H:17])[H:18])([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])[H:3],49.9988
